US08022222B2
A 25 mL round-bottomed flask is charged with (E)-methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)acrylate (455 mg, 1.13 mmol), 4-methylbenzenesulfonohydrazide (1050 mg, 5.64 mmol), and toluene (10 mL). The reaction mixture is heated at reflux for 12 hours, then cooled to room temperature and concentrated in vacuo. The residue is purified by silica gel (20 to 30% EtOAc in hexanes) to afford methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)propanoate.

reactant | (E)-methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)acrylate | 1.13 mmol, 455 mg | FC1=C(OC2=C(C=NC(=C2)NC=2SC=C(N2)C)/C=C/C(=O)OC)C(=CC=C1)F | C19H15F2N3O3S
reactant | 4-methylbenzenesulfonohydrazide | 5.64 mmol, 1050 mg | CC1=CC=C(C=C1)S(=O)(=O)NN | C7H10N2O2S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)propanoate | FC1=C(OC2=C(C=NC(=C2)NC=2SC=C(N2)C)CCC(=O)OC)C(=CC=C1)F | C19H17F2N3O3S
